US04462923
35.6 g of crude ethyl trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate are treated with 62 ml of ethanol and a solution of 46.6 g of sodium hydroxide in 312 ml of water and heated to boiling for 1 hour. After cooling, the mixture is acidified with 220 ml of half-concentrated hydrochloric acid, left to stand for 1 hour in an ice-bath and then suction filtered. The material on the suction filter is washed with water and dried in vacuo at 50° C. over potassium hydroxide. For purification, the crude product is recrystallized from dioxan/water. There is obtained trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylic acid; m.p. 184°-185.5° C.

reactant | ethyl trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate | 35.6 g | C(CC)[C@@H]1CC[C@H](CC1)C1=NC=C(C=N1)C(=O)OCC | C16H24N2O2
reactant | ethanol | 62 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 46.6 g | [OH-].[Na+]
reactant | hydrochloric acid | 220 ml | Cl | ClH
solvent | water | 312 ml | O | H2O
product | trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylic acid | C(CC)[C@@H]1CC[C@H](CC1)C1=NC=C(C=N1)C(=O)O | C14H20N2O2
